US05225425
N-[3-(2-Methyl-1H-imidazol-1-yl)phenyl-4-(tetradecyloxy)benzeneacetamide monohydrochloride
To a solution of 500 mg of N-[3-(2-methyl-1H-imidazol-1-yl) phenyl-4-(tetradecyloxy)benzeneacetamide in a minimum of ether is treated with 70 ml of ether saturated with hydrogen chloride. The resulting solid is collected via centrifugation, washed with ether and vacuum dried to give 0.4 g of the desired product as a white solid, m.p. 175°-178° C.

reactant | 3-(2-methyl-1H-imidazol-1-yl) phenyl-4-(tetradecyloxy)benzeneacetamide | CC=1N(C=CN1)C=1C=C(C=CC1)C1=C(C=CC(=C1)OCCCCCCCCCCCCCC)CC(=O)N | C32H45N3O2
reactant | hydrogen chloride | Cl | ClH
solvent | ether | 70 ml | CCOCC | C4H10O
product | 3-(2-Methyl-1H-imidazol-1-yl)phenyl-4-(tetradecyloxy)benzeneacetamide monohydrochloride | 0.4 g | Cl.CC=1N(C=CN1)C=1C=C(C=CC1)C1=C(C=CC(=C1)OCCCCCCCCCCCCCC)CC(=O)N | InChI=1S/C32H45N3O2.ClH/c1-3-4-5-6-7-8-9-10-11-12-13-14-22-37-30-19-18-28(24-32(33)36)31(25-30)27-16-15-17-29(23-27)35-21-20-34-26(35)2;/h15-21,23,25H,3-14,22,24H2,1-2H3,(H2,33,36);1H
